US06228868B1
N-(2-oxo-1-propyl)-2-methyl-5-methoxycarbonylpyridinium bromide
A solution of methyl 6-methylnicotinate (1.00 g, 6.60 mmol) and bromoacetone (1.00 g, 7.30 mmol) in acetone (3 mL) was refluxed overnight, cooled to room temperature, and decanted. The resulting solid was dried under vacuum to provide approximatelyl.47 g the desired product as a solid, which was used directly in the next step without further purification.

reactant | methyl 6-methylnicotinate | 6.60 mmol, 1.00 g | CC1=NC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | bromoacetone | 7.30 mmol, 1.00 g | BrCC(C)=O | C3H5BrO
solvent | acetone | 3 mL | CC(=O)C | C3H6O
product | N-(2-oxo-1-propyl)-2-methyl-5-methoxycarbonylpyridinium bromide | [Br-].O=C(C[N+]1=C(C=CC(=C1)C(=O)OC)C)C | InChI=1S/C11H14NO3.BrH/c1-8-4-5-10(11(14)15-3)7-12(8)6-9(2)13;/h4-5,7H,6H2,1-3H3;1H/q+1;/p-1
